US05527940
A solution of 13.29 g (40 mmol) of tetraethyl ethane-1,1-diphosphonate in 120 ml of dry tetrahydrofuran was cooled to -78° C. in an argon atmosphere followed by the addition of 24.24 ml (40 mmol) of a n-butyllithium hexane solution (1.65 mmol/ml) and stirring for 30 minutes. After adding a solution of 7.63 g (40 mmol) of 4-methylthiobenzenesulfenyl chloride in 50 ml of dry tetrahydrofuran to this mixture, the reaction mixture was allowed to warm up to room temperature followed by stirring for 3 hours. After pouring the resulting mixture into icewater, the mixture was extracted with ethyl acetate (3×150 ml). The solvent was distilled off under reduced pressure after the combined organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. A mixture of tetraethyl 1-methylthiophenyl)thio]ethane-1,1-diphosphonate and tetraethyl 1-chloroethane-1,1-diphosphonate was obtained as the residue. This mixture was then carefully purified with column chromatography (developing solvent: ethanol: ethyl acetate=5:95) to obtain 7.12 g of the target compound in the form of a yellow oily substance.

reactant | tetraethyl ethane-1,1-diphosphonate | 40 mmol, 13.29 g | C(C)(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C10H24O6P2
reactant | n-butyllithium hexane | 40 mmol, 1.65 mmol/ml, 24.24 ml | CCCCCC.C(CCC)[Li]
reactant | 4-methylthiobenzenesulfenyl chloride | 40 mmol, 7.63 g | CSC1=CC=C(C=C1)SCl | C7H7ClS2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tetraethyl 1-chloroethane-1,1-diphosphonate | ClC(C)(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C10H23ClO6P2
